US04174453
(±)-trans-2,3,4,4a,5,9b-hexahydro-2-methyl-5-phenyl-1H-pyrido[4,3-b]indole hydrochloride
To a solution of 180 ml 1 molar BH3 in THF (0.18 mole BH3) which was cooled in an ice bath, was added a solution of 7.9 grams 2,3,4,5-tetrahydro-2-methyl-5-phenyl-1H-pyrido[4,3-b]indole (0.03 mole) in 200 ml freshly chromatographed THF, dropwise with stirring over 30 minutes in a nitrogen atmosphere. The ice bath was then replaced with a heating mantle and the mixture was refluxed for 19 hours in the nitrogen atmosphere. The mixture was cooled and evaporated under vacuum to a clear gel. The gel was then refluxed in 75 ml of a 1:1 mixture of glacial acetic acid and 5 N HCl. A clear light brown solution was obtained after about 1/2 hour and refluxing was continued for a total of 1 hour. The resulting solution was cooled to about 50° C. and treated with 50% aqueous NaOH until basic, during which time the temperature rose to 80° C. The mixture was cooled again and a light purple oil was extracted into CHCl3. The mixture was again extracted with CHCl3, the extracts were combined and washed with saturated NaCl solution, then dried over Na2SO4. The CHCl3 was then evaporated under vacuum, leaving a purple oily residue which was taken up in about 50 ml diethyl ether and some ethanol. Ethereal HCl was added and 8.1 grams of pale greenish-white powder were obtained by filtration and drying. Recrystallization from methanol provided 6.2 grams of the title compound, m.p. 256°-258° C.

reactant | THF | 0.18 mole | C1CCOC1 | C4H8O
reactant | 2,3,4,5-tetrahydro-2-methyl-5-phenyl-1H-pyrido[4,3-b]indole | 0.03 mole, 7.9 grams | CN1CC2=C(N(C=3C=CC=CC23)C2=CC=CC=C2)CC1 | C18H18N2
reactant | NaOH | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | diethyl ether | about 50 ml | C(C)OCC | C4H10O
solvent | ethanol | C(C)O | C2H6O
product | (±)-trans-2,3,4,4a,5,9b-hexahydro-2-methyl-5-phenyl-1H-pyrido[4,3-b]indole hydrochloride | 8.1 grams | Cl.CN1C[C@@H]2[C@H](N(C=3C=CC=CC23)C2=CC=CC=C2)CC1 | InChI=1S/C18H20N2.ClH/c1-19-12-11-18-16(13-19)15-9-5-6-10-17(15)20(18)14-7-3-2-4-8-14;/h2-10,16,18H,11-13H2,1H3;1H/t16-,18+;/m0./s1
